US04409214
A solution of 7-[2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(1.9 g) and conc. hydrochloric acid (1.36 g) in methanol (190 ml) was stirred at ambient temperature for 1.3 hours. After the reaction mixture was evaporated to dryness, the residue was suspended in water (35 ml) and then adjusted to pH 7-8 with 10% aqueous sodium hydroxide, followed by adjusting to pH 3 with 10% hydrochloric acid. The precipitated solid was collected by filtration, washed with water and then dried to give 7-[2-(2-aminothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.3 g), mp>250° C.

reactant | 7-[2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.9 g | C(=O)NC=1SC(=CN1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | C16H15N5O6S2
reactant | hydrochloric acid | 1.36 g | Cl | ClH
solvent | methanol | 190 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-5-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.3 g | NC=1SC(=CN1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | C15H15N5O5S2
